US06218376B1
i) 5-(3-Methylphenyl)penta-2,4-dienoic acid
A mixture of potassium tert-butoxide (68 g) and tert-butanol (130 ml) was treated dropwise with a mixture of 3-methylbenzaldehyde (33.8 g) and methyl crotonate (45 ml). The temperature of the reaction mixture rose to 65° C. during the addition and this was maintained for a further 3 hours. The reaction mixture was cooled to room temperature, poured into ice/water and washed with diethyl ether. The aqueous phase was acidified with concentrated HCl and extracted with diethyl ether. The organic phase was washed with water, dried (MgSO4) and evaporated under reduced pressure. Purification was by trituration with isohexane and filtration.

reactant | potassium tert-butoxide | 68 g | CC(C)([O-])C.[K+]
reactant | 3-methylbenzaldehyde | 33.8 g | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | methyl crotonate | 45 ml | C(\C=C\C)(=O)OC | C5H8O2
solvent | tert-butanol | 130 ml | C(C)(C)(C)O | C4H10O
product | 5-(3-Methylphenyl)penta-2,4-dienoic acid | CC=1C=C(C=CC1)C=CC=CC(=O)O | C12H12O2
